* 330V to 12V async buck, 300W
* D=36.4m, t_on=727n, Rload=480m
Vin in 0 330
M1 in gate sw 0 NMOS W=1 L=1
D1 0 sw DIODE
L1 sw out 220u
C1 out 0 220u
Rload out 0 480m
Vgate gate 0 PULSE(0 12 0 1n 1n 727n 20u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
